US05243042
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (78 mg, 0.41 mmol) was added to a solution of 5-[[(amino)carbonyl]amino-1-(β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid (19 mg, 0.063 mmol) in water (2 mL) and CH3OH (5 mL) and the mixture was stirred at room temperature overnight. The reaction was quenched by addition of excess 60% aqueous acetic acid. After 30 minutes, the mixture was diluted with water, concentrated to remove CH3OH and lyophilized. The resulting powder (100 mg) was chromatographed on reverse phase silica gel [10 g, flash, stepwise gradient elution: water (200 mL), 10% CH3OH in water (v/v, 100 mL), 20% CH3OH in water (v/v, 100 mL), 10-mL fractions]. Fractions containing the product were combined, concentrated under reduced pressure and lyophilized to give oxanosine: 16 mg (89%).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.41 mmol, 78 mg | Cl.CN(CCCN=C=NCC)C
reactant | [(amino)carbonyl]amino-1-(β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid | 0.063 mmol, 19 mg | NC(=O)NC=1N(C=C(N1)C(=O)O)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H14N4O7
solvent | water | 2 mL | O | H2O
solvent | CH3OH | 5 mL | CO | CH4O
product | oxanosine | C1=NC2=C(N1[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O)N=C(OC2=O)N | C10H12N4O6
